US07220776B2
Step A: Ethyl (2S)-2-[(4S)-4-methyl-2,5-dioxo-1,3-oxazolidin-3-yl]pentanoate
Introduce into a reactor, at 0° C., 200 g of N-[(S)-ethoxycarbonyl-1-butyl]-(S)-alanine, 1.5 litres of toluene, and then 184 g of 1,1′-carbonyldiimidazole, then bring the temperature of the reaction mixture to 20° C. After stirring for 1 hour at 20° C., cool the mixture to 0° C. again, filter off the precipitate obtained, then evaporate the filtrate to yield the title product in a yield of 90%.

reactant | N-[(S)-ethoxycarbonyl-1-butyl]-(S)-alanine | 200 g | CCC[C@@H](C(=O)OCC)N[C@@H](C)C(=O)O | C10H19NO4
reactant | 1,1′-carbonyldiimidazole | 184 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | toluene | 1.5 litres | C1(=CC=CC=C1)C | C7H8
product | Ethyl (2S)-2-[(4S)-4-methyl-2,5-dioxo-1,3-oxazolidin-3-yl]pentanoate | yield of 90% | C[C@@H]1N(C(OC1=O)=O)[C@H](C(=O)OCC)CCC | C11H17NO5
